Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Bright red blood per rectum
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ hx of HTN, HLD on ASA and diverticular bleed ___ presents 
with painless BRBPR x3. He was driving his bus when he had 
urgency to stool, bright red blood mixed with stool came out, no 
abd pain, no lightheadedness, no chest pain or shortness of 
breath. He finished his shift and had further movements similar 
2PM, 6PM, 10PM, 2AM.  
In the ED, initial vitals: 98.1 92 198/111 18 100%  
Labs/Studies notable for: Crit 40.5->39.0 INR 1.2 plt 177. He 
had one episode of BRBPR in the ED, vitals remained stable. 2 18 
G placed, T&C, GI consulted with plan for CT abd/pelvis with 
contrast.  
On arrival pt again has BRBPR but no associated cardiopulmonary 
symptoms or lightheadedness.  
 
ROS:  
Please refer to HPI for pertinent positives and negatives. 10 
point ROS is otherwise negative.
 
Past Medical History:
Diverticulosis
Internal hemorrhoids
GERD
h/o colonic adenoma on ___ colonoscopy
Hypertension
Asthma
Obesity
Migraines
 
Social History:
___
Family History:
Father- HTN
Mother- stroke
Multiple members of mother's family with h/o stroke
Uncle- died of colon cancer age ___
Uncle- died of stomach cancer age ___
 
Physical Exam:
Vitals: T 98.2 138/91 HR 90 RR 20 O2 98%RA SBP 130-140 HR 90-100 
 
General: AAOx3, comfortable appearing, in NAD  
HEENT: NCAT, EOMI, PERRL. Sclera anicteric, conjunctiva pink. 
MMM. OP clear.  
Neck: supple, no LAD, no JVP elevation  
Lungs: CTAB, no w/r/r  
CV: RRR, normal S1 and S2, no m/g/r  
Abdomen: NABS, soft, nondistended, nontender. No HSM.  
GU: no foley  
Ext: WWP. 2+ peripheral pulses. No edema.  
Neuro: CNs II-XII intact. MAEE. Grossly normal strength and 
sensation.  

DISCHARGE
Overall unchanged 

 
Pertinent Results:
___ 02:45AM BLOOD WBC-8.3 RBC-4.64 Hgb-14.2 Hct-40.5 MCV-87 
MCH-30.5 MCHC-34.9 RDW-15.1 Plt ___
___ 08:09AM BLOOD WBC-9.0 RBC-4.48* Hgb-13.3* Hct-39.0* 
MCV-87 MCH-29.7 MCHC-34.2 RDW-15.0 Plt ___
___ 10:30AM BLOOD Hct-40.2
___ 03:20PM BLOOD Hct-35.3*
___ 07:02PM BLOOD Hct-34.6*
___ 12:36AM BLOOD Hct-29.8*
___ 04:02AM BLOOD Hct-30.4*
___ 07:55AM BLOOD Hct-31.7*
___ 02:50PM BLOOD Hct-28.8*
___ 05:00AM BLOOD WBC-7.4 RBC-3.40* Hgb-10.3* Hct-30.0* 
MCV-88 MCH-30.2 MCHC-34.2 RDW-15.4 Plt ___
___ 02:45AM BLOOD ___ PTT-31.5 ___
___ 02:45AM BLOOD Glucose-144* UreaN-13 Creat-1.1 Na-136 
K-3.4 Cl-102 HCO3-25 AnGap-12

IMAGING
CTA ___. Colonic diverticulosis, without evidence of active 
extravasation of 
contrast to suggest a site of enteric bleeding. 
2. Mild stenosis of the celiac origin could be related in part 
to arcuate 
ligament compression. Significance is uncertain. Patent superior 
and inferior 
mesenteric arteries. 
3. 9 mm hemorrhagic cyst interpolar region right kidney. 
  

 
Brief Hospital Course:
___ hx of HTN, HLD, hx of diverticulosis and diverticular bleed, 
on ASA 325mg presenting with painless ongoing BRBPR.  

# BRBPR: Given history of diverticular bleed, this is most 
likely recurrence. Hemodynamically stable, but with ongoing 
bleeding. The low BUN and known history of diverticulosis point 
toward a lower GI etiology of the patient's bleeding and his 
___ score is 0. Potentially provoked by the patient 
raising his ASA 81mg to ASA 325mg 2 weeks ago. CTA confirms 
divertics wtihout evidence of active extravasation so no role 
for ___. He was observed to have decreasing bloody BM's and 
stabilizing hematocrit, and in conference with GI it was 
determined that he could safely discharge with outpatient 
colonoscopy. Aspirin was held at discharge since he has no 
history of coronary disease.

# HTN: Atenolol was held in the context of normal BP's and HR, 
to be restarted by PCP. 

TRANSITIONAL ISSUES:
# Atenolol held, to be restarted by PCP
# ___ held because no history of coronary disease and likely 
contributed to bleeding
# Outpatient colonoscopy to be scheduled by patient and GI
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atenolol 50 mg PO DAILY 
3. Simvastatin 20 mg PO DAILY 

 
Discharge Medications:
1. Simvastatin 20 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lower gastrointestinal bleed

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure participating in your care at ___ 
___.

You were admitted with bleeding that has slowly stopped. It is 
likely another episode of bleeding from what are called 
diverticula, ___ outpouchings on your colon- part of your 
gastrointestinal tract. Your bleeding seems to have stopped on 
its own, which is consistent with a typical diverticular bleed.  
You were seen by the GI doctors who ___ don't need a 
colonoscopy now, and should have a routine follow up colonoscopy 
in ___ years.  Please stop taking aspirin and atenolol until you 
can see your primary care doctor. 

Please be sure to keep the appointments that have been arranged 
for you as described below.
 
Followup Instructions:
___